US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-[3-({methyl[2-(methylamino)-2-oxoethyl]amino}methyl)-1,2,4-oxadiazol-5-yl]hexanoate
Method as for preparation 56 using [({5-[(1R)-1-(2-tert-butoxy-2-oxoethyl)-4-cyclohexylbutyl]-1,2,4-oxadiazol-3-yl}methyl)(methyl)amino]acetic acid (preparation 133) (618 mg, 1.46 mmol) and methylamine (2M in THF) (1.4 ml, 2.80 mmol) as starting materials.

reactant | [({5-[(1R)-1-(2-tert-butoxy-2-oxoethyl)-4-cyclohexylbutyl]-1,2,4-oxadiazol-3-yl}methyl)(methyl)amino]acetic acid | 1.46 mmol, 618 mg | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)CN(C)CC(=O)O)=O | C22H37N3O5
reactant | methylamine | 2.80 mmol, 2M, 1.4 ml | CN | CH5N
product | tert-butyl (3R)-6-cyclohexyl-3-[3-({methyl[2-(methylamino)-2-oxoethyl]amino}methyl)-1,2,4-oxadiazol-5-yl]hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CN(CC(=O)NC)C | C23H40N4O4
